US08791132B2
4-(2,8-Dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-3-pyridin-4-yl-butyricacidmethylester (1.5 g, 3.9 mmol) was dissolved in THF (50 mL) and cooled to −78° C., tert-butyl lithium (16% in pentane) (6 mL, 15.13 mmol) was added dropwise under nitrogen. The reaction mixture was stirred at −78° C. for 90 min. After complete consumption of starting material, the reaction mixture was quenched with ammonium chloride solution and the reaction mixture was allowed to come to RT and extracted with EtOAc (3×100 mL). The combined organic layer was dried over anhydrous sodium sulfate and concentrated to obtain 1.7 g of crude 6-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-2,2-dimethyl-5-pyridin-4-yl-hexan-3-one. 1H NMR (CDCl3, freebase) δ (ppm): 8.41 (d, 2H), 7.31 (d, 1H), 7.19 (s, 1H), 7.1 (d, 1H), 6.93 (d, 2H), 4.25 (dd, 1H), 3.9 (t, 2H), 3.8 (m, 1H), 3.67 (dd, 1H), 2.87 (m, 3H), 2.71 (m, 2H), 2.51 (s, 3H), 2.42 (s, 3H), 2.1 (m, 1H), 1.21 s (9H). Separation by chiral HPLC provides enantiomers II-222a-b.

reactant | 4-(2,8-Dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-3-pyridin-4-yl-butyricacidmethylester | 3.9 mmol, 1.5 g | COC(CC(CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C)C2=CC=NC=C2)=O | C23H27N3O2
reactant | tert-butyl lithium | 15.13 mmol, 6 mL | C(C)(C)(C)[Li]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 6-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-2,2-dimethyl-5-pyridin-4-yl-hexan-3-one | 1.7 g | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(CC(C(C)(C)C)=O)C2=CC=NC=C2)CC1 | C26H33N3O
